US08207168B2
A mixture of crude 4-(4-methoxy-phenyl)-3-methyl-4-oxo-butyric acid ethyl ester (44 g, 175.8 mmol), acetic acid (300 mL) and 48% aqueous HBr (150 mL) was stirred at reflux for 10 h. The reaction was cooled to rt, concentrated at reduced pressure then partitioned between methylene chloride and water and the aqueous layer was extracted three times with methylene chloride and concentrated to provide a crude material. The crude material was dissolved in ethanol (125 mL) and added amberlyst then heated at 85° C. for 15 h. The reaction mixture was filtered over celite at rt and the filtrate was concentrated at reduced pressure and then partitioned between water and methylene chloride. The aqueous layer was extracted twice with methylene chloride to furnish a crude product and the crude product was purified by ISCO (330 g silica gel column) chromatography using 20 to 30% EtOAc in hexane to obtain a mixture (19 g) of 4-(4-hydroxyphenyl)-3-methyl-4-oxo-butyric acid ethyl ester (MS m/z 235 (M−H) and p-hydroxypropiophenone. The mixture was used for the next reaction without further purification.

reactant | 4-(4-methoxy-phenyl)-3-methyl-4-oxo-butyric acid ethyl ester | 175.8 mmol, 44 g | C(C)OC(CC(C(=O)C1=CC=C(C=C1)OC)C)=O | C14H18O4
reactant | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
reactant | HBr | 150 mL | Br | BrH
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 4-(4-hydroxyphenyl)-3-methyl-4-oxo-butyric acid ethyl ester | 19 g | C(C)OC(CC(C(=O)C1=CC=C(C=C1)O)C)=O | C13H16O4
